US07683091B2
3-Phenyl-2-[5-({[4-(trifluoromethoxy)phenyl]sulfonyl}amino)-1H-indol-1-yl]propanoic acid
To N-[1-(1-hydrazinocarbonyl-2-phenyl-ethyl)-1H-indol-5-yl]-4-trifluoro methoxy-benzenesulfonamide (0.07 g, 0.13 mmol) in acetic acid at ambient temperature under a laboratory atmosphere was added conc. HCl (1 ml) then the reaction vessel was capped. The dark red mixture was heated at 80° C. for 15 hours (the vessel was periodically uncapped then recapped to release pressure build up with in the vessel). The reaction was cooled to ambient temperature and concentrated in vacuo to a dark red powder. The crude product was subjected to gradient RP-HPLC (H2O: CH3CN) and the title compound was isolated as a red powder (0.06 g, 91% yield): MS (ESI) m/z 505, MS (ESI) m/z 503.

reactant | N-[1-(1-hydrazinocarbonyl-2-phenyl-ethyl)-1H-indol-5-yl]-4-trifluoro methoxy-benzenesulfonamide | 0.13 mmol, 0.07 g | N(N)C(=O)C(CC1=CC=CC=C1)N1C=CC2=CC(=CC=C12)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F | C24H21F3N4O4S
reactant | HCl | 1 ml | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Phenyl-2-[5-({[4-(trifluoromethoxy)phenyl]sulfonyl}amino)-1H-indol-1-yl]propanoic acid | C1(=CC=CC=C1)CC(C(=O)O)N1C=CC2=CC(=CC=C12)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F | C24H19F3N2O5S
